US06750231B2
1-Benzyl-3,4-dimethyl-4-(3-(5-(trimethylsilyl)-1H-1,2,3-triazol-4-yl)phenyl)piperidine
To a solution of (trimethylsilyl)diazomethane (2.0 M in hexane, 9.86 mL, 19.7 mmol) in tetrahydrofuran (40 mL) at 0° C. under an atmosphere of nitrogen was added n-butyllithium (2.5 M in hexane, 7.9 mL, 19.7 mmol) dropwise. After 30 min, a solution of 1-benzyl-4-(3-cyanophenyl)-3,4-dimethylpiperidine (Preparation 3, 5.0 g, 16.4 mmol) in tetrahydrofuran (40 mL) was added such that the internal temperature remained at 0° C. After stirring overnight, the reaction was quenched with saturated aqueous sodium hydrogencarbonate (100 mL) and the mixture was extracted with ethyl acetate (3×100 mL). The combined organic extracts were dried over MgSO4, filtered and concentrated in vacuo to give a pale brown foam (6.53 g, 79%).

reactant | (trimethylsilyl)diazomethane | 19.7 mmol, 2.0 M, 9.86 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | n-butyllithium | 19.7 mmol, 2.5 M, 7.9 mL | C(CCC)[Li]
reactant | 1-benzyl-4-(3-cyanophenyl)-3,4-dimethylpiperidine | 16.4 mmol, 5.0 g | C(C1=CC=CC=C1)N1CC(C(CC1)(C)C1=CC(=CC=C1)C#N)C | C21H24N2
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 1-Benzyl-3,4-dimethyl-4-(3-(5-(trimethylsilyl)-1H-1,2,3-triazol-4-yl)phenyl)piperidine | 6.53 g, 79% | C(C1=CC=CC=C1)N1CC(C(CC1)(C1=CC(=CC=C1)C=1N=NNC1[Si](C)(C)C)C)C | C25H34N4Si
